US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-[(1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide
Cesium carbonate (489 mg, 1.5 mmol) was added to a solution of 3-hydroxy-5-[(1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide (144 mg, 0.5 mmol) and 2-(azetidin-1-ylcarbonyl)-5-bromopyridine (181 mg, 0.75 mmol) and bromotris(triphenylphosphine)copper (93 mg, 0.1 mmol) in DMA (5 mL) and the stirred mixture heated at 160° C. in a microwave reactor for 4 hours. The mixture was cooled to RT and ambient pressure, partitioned between water (75 mL) and ethyl acetate (50 mL), the organic layer washed with brine, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica, eluting with 75% ethyl acetate in isohexane, to give the desired compound (crystallised from ether) (72 mg). 1H NMR δ (CDCl3): 1.3 (d, 6H), 2.3 (m, 2H), 2.5 (s, 3H), 4.2 (t, 2H), 4.5 (m, 1H), 4.65 (t, 2H), 6.7 (s, 1H), 7.05 (s, 1H), 7.2 (s, 1H), 7.3 (d, 1H), 8.0 (br, 2H), 8.3 (br, 2H) and 9.45 (s, 1H). m/z 448 (M+H)+. Mpt (melting onset) 125.7° C.

reactant | Cesium carbonate | 1.5 mmol, 489 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-5-[(1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide | 0.5 mmol, 144 mg | OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OC(C)C | C15H17N3O3
reactant | 2-(azetidin-1-ylcarbonyl)-5-bromopyridine | 0.75 mmol, 181 mg | N1(CCC1)C(=O)C1=NC=C(C=C1)Br | C9H9BrN2O
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-[(1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide | 72 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OC(C)C | C24H25N5O4
